US05545755
8-Aminosulfonyl-2-(N-(3-Phenylpropyl)amino)tetralin.
The compound was prepared in a manner similar to the preparation of the dipropylamine above using 8-aminosulfonyl-2-tetralone (1.13 g, 5.0 mmol), 3-phenyl-1-propylamine (0.75 ml, 5.3 mmol), p-toluenesulfonic acid (0.10 g, 0.53 mmol), and platinum oxide (0.30 g) in benzene (20 mls) and ethanol (35 mls) to give a solid (1.71 g). The compound was crystallized from acetonitrile and converted to the hydrochloride salt as above. (m.p. 105°-130° C.).

reactant | dipropylamine | C(CC)NCCC | C6H15N
reactant | 8-aminosulfonyl-2-tetralone | 5.0 mmol, 1.13 g | NS(=O)(=O)C=1C=CC=C2CCC(CC12)=O | C10H11NO3S
reactant | 3-phenyl-1-propylamine | 5.3 mmol, 0.75 ml | C1(=CC=CC=C1)CCCN | C9H13N
reactant | p-toluenesulfonic acid | 0.53 mmol, 0.10 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 20 mls | C1=CC=CC=C1 | C6H6
solvent | ethanol | 35 mls | C(C)O | C2H6O
catalyst | platinum oxide | 0.30 g | [Pt]=O
product | 8-Aminosulfonyl-2-(N-(3-Phenylpropyl)amino)tetralin | 1.71 g | NS(=O)(=O)C=1C=CC=C2CCC(CC12)NCCCC1=CC=CC=C1 | C19H24N2O2S
